US07560551B2
To a solution of N-methyl-4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyridin-3-yl)pyrimidin-2-amine (0.414 g, 1.02 mmol) in 2 mL EtOH at 0° C. was added hydrogen peroxide, 30 wt. % solution in water (0.984 ml, 10.2 mmol). The reaction was allowed to warm to ambient temperature. After 1 h, the reaction was diluted with DCM, and the layers were separated. The aqueous layer was extracted with 5%MeOH/DCM. The combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, (EtOAc/hexanes) to give 4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenol as a white solid. MS m/z=295[M+H]+. Calc'd for C16H14N4O2: 294.3.

reactant | N-methyl-4-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyridin-3-yl)pyrimidin-2-amine | 1.02 mmol, 0.414 g | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H25BN4O3
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 10.2 mmol, 0.984 ml | O | H2O
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenol | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)O | C16H14N4O2
